US08492582B2
Trifluoroacetic acid (5 mL) was added to the obtained tert-butyl 2-(5-(6-aminopyridin-2-yl)-2-hydroxybenzamido)-4-phenylbenzoate (0.032 g), followed by stirring at room temperature for 12 hours. The solvent was evaporated under reduced pressure, and water and ethyl acetate were added thereto. After adjusting the pH to 6 with a saturated aqueous solution of sodium bicarbonate, the solid substance was collected by filtration. Carbon dioxide gas was introduced into a solution mixture of water (1 mL), methanol (0.5 mL), and dioxane (0.5 mL) containing the obtained solid substance, and the solid substance was collected by filtration to obtain 0.018 g of 2-(5-(6-aminopyridin-2-yl)-2-hydroxybenzamido)-4-phenylbenzoic acid as a white solid.

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(5-(6-aminopyridin-2-yl)-2-hydroxybenzamido)-4-phenylbenzoate | 0.032 g | NC1=CC=CC(=N1)C=1C=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C1)O | C29H27N3O4
product | 2-(5-(6-aminopyridin-2-yl)-2-hydroxybenzamido)-4-phenylbenzoic acid | 0.018 g | NC1=CC=CC(=N1)C=1C=CC(=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C1)O | C25H19N3O4
